US08193356B2
To a suspension of 4-hydroxy-1-phenyl-3-(2-phenylpropionyl)-1,8-naphthyridin-2(1H)-one (370 mg, 1.0 mmol) produced in Synthesis Example 8 in DMF (8 mL) was added hydrazine monohydrate (purity of 80%, 160 μL), and the mixture was stirred at 100 to 110° C. for 3 hours. To the reaction solution was added water. The resulting precipitate was separated by filtration, washed with water, and dried to give 5-phenyl-3-(1-phenylethyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one as a form of crystal (306 mg, yield 84%).

reactant | 4-hydroxy-1-phenyl-3-(2-phenylpropionyl)-1,8-naphthyridin-2(1H)-one | 1.0 mmol, 370 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(C(C)C1=CC=CC=C1)=O | C23H18N2O3
reactant | hydrazine monohydrate | 160 μL | O.NN
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-phenyl-3-(1-phenylethyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)NN=C2C(C)C2=CC=CC=C2)=O | C23H18N4O
